US06136823
Synthesis of 1-(5-Amino-2,4-difluorophenyl)-8-bromo-6-fluoro-7-methylamino-4-oxo-1,4-dihydroquinoline-3-carboxylic Acid
A 40% aqueous solution (150 mg) of methylamine and 1-(5-amino-2,4-difluorophenyl)-8-bromo-6,7-difluoro-4-oxo-1,4-dihydroquinoline-3-carboxylic acid (150 mg) were added to pyridine (3 ml), and the mixture was stirred at room temperature for 2 hours. After the solvent was distilled off under reduced pressure, a mixed liquid of ethanol and diethyl ether was added to the residue, and solids were collected by filtration to obtain the title compound (40 mg) as a light brown powder.

reactant | methylamine | CN | CH5N
reactant | 1-(5-amino-2,4-difluorophenyl)-8-bromo-6,7-difluoro-4-oxo-1,4-dihydroquinoline-3-carboxylic acid | 150 mg | NC=1C(=CC(=C(C1)N1C=C(C(C2=CC(=C(C(=C12)Br)F)F)=O)C(=O)O)F)F | C16H7BrF4N2O3
solvent | pyridine | 3 ml | N1=CC=CC=C1 | C5H5N
product | 1-(5-Amino-2,4-difluorophenyl)-8-bromo-6-fluoro-7-methylamino-4-oxo-1,4-dihydroquinoline-3-carboxylic Acid | 40 mg | NC=1C(=CC(=C(C1)N1C=C(C(C2=CC(=C(C(=C12)Br)NC)F)=O)C(=O)O)F)F | C17H11BrF3N3O3
